US08686044B2
Preparation of 2-aminothiazole-4-carboxylic acid
To 40 ml of an aqueous solution of 4.00 g (23.2 mmol) of ethyl 2-aminothiazole-4-carboxylate was added 1.86 g (46.5 mmol) of sodium hydroxide, followed by stirring at room temperature for 5 hours. The reaction liquid was adjusted to pH 1 by the addition of concentrated hydrochloric acid, and the precipitated crystals were collected by filtration to prepare 2.84 g (yield 85%) of a target compound.

reactant | ethyl 2-aminothiazole-4-carboxylate | 23.2 mmol, 4.00 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | sodium hydroxide | 46.5 mmol, 1.86 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-aminothiazole-4-carboxylic acid | 2.84 g, yield 85% | NC=1SC=C(N1)C(=O)O | C4H4N2O2S
